US09416135B2
A solution of Cbz-D-Valine (500 g, 1.99 mol) and N-methylmorpholine (201.8 g, 1.99 mol) in anhydrous THF (8 L) was cooled to −15° C., i-butylchlorofomate (299 g, 2.19 mol) was added dropwise under stirring. After 30 min, a solution of 1-amino-2,2-dimethyoxypropane (209.5 g, 1.99 mol) in THF (1 L) was added slowly and the temperature was maintained at −15° C. for 2 h. The reaction mixture was washed with brine (2 L) and the organic phase was concentrated to remove the THF. The residue was diluted with EtOAc (4 L), washed with 1N aqueous HCl (2×2 L), washed with sat. NaHCO3 (2 L) and Na2CO3 (2 L), and washed with brine (1.5 L). After drying over Na2SO4, the organic solvent was removed under reduce pressure to afford (R)-benzyl(1-((2,2-dimethoxyethyl)amino)-3-methyl-1-oxobutan-2-yl)carbamate as a white solid (670 g, yield 99.5%), which was used for next step without further purification. LC-MS m/z 360.9 [M+Na]+. 1H NMR (CD3OD 300 MHz): δ 7.35-7.30 (m, 5H), 5.08 (s, 2H), 4.45-4.35 (m, 1H), 3.95-3.85 (m, 1H), 3.34-3.25 (m, 8H), 2.10-1.90 (m, 1H), 0.94-0.91 (m, 6H).

reactant | Cbz-D-Valine | 1.99 mol, 500 g | C(=O)(OCC1=CC=CC=C1)N[C@H](C(C)C)C(=O)O | C13H17NO4
reactant | N-methylmorpholine | 1.99 mol, 201.8 g | CN1CCOCC1 | C5H11NO
reactant | 1-amino-2,2-dimethyoxypropane | 1.99 mol, 209.5 g | NCC(C)(OC)OC | C5H13NO2
solvent | THF | 8 L | C1CCOC1 | C4H8O
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | (R)-benzyl(1-((2,2-dimethoxyethyl)amino)-3-methyl-1-oxobutan-2-yl)carbamate | 670 g, yield 99.5% | C(C1=CC=CC=C1)OC(N[C@@H](C(=O)NCC(OC)OC)C(C)C)=O | C17H26N2O5
